US06469020B2
4-Acetylsulfanylmethyl-tetrahydro-pyran-4-carboxylic Acid Methyl Ester
4-Iodomethyl-tetrahydro-pyran-4-carboxylic acid methyl ester (3.05 g) was dissolved in N,N-dimethylformamide (20 ml) at room temperature and potassium thioacetate (1.47 g) added. The mixture was stirred for 18 hours then diluted with water (50 ml) and extracted with diethyl ether (4×25 ml). The combined organics were washed with saturated sodium bicarbonate solution (3×20 ml) and brine (20 ml), then dried (MgSO4), filtered and evaporated under reduced pressure to give the title compound as a yellow solid (2.42 g, 97%).

reactant | 4-Iodomethyl-tetrahydro-pyran-4-carboxylic acid methyl ester | 3.05 g | COC(=O)C1(CCOCC1)CI | C8H13IO3
reactant | potassium thioacetate | 1.47 g | C(C)(=S)[O-].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-Acetylsulfanylmethyl-tetrahydro-pyran-4-carboxylic Acid Methyl Ester | 2.42 g, 97% | COC(=O)C1(CCOCC1)CSC(C)=O | C10H16O4S
